US04010193
To 2.12 g. of 3,4,5-trimethoxy-benzoic acid 10 ml. of toluene and 1.19 g. of thionyl chloride are added and the reaction mixture is refluxed until no more gas evolves. A suspension of 1.8 g. of cyclohexyl aminoethanol-hydrochloride and 3 ml. of toluene are added to the solution thus obtained and the reaction mixture is refluxed until the gas development ceases. After cooling the precipitated crystals are filtered by suction washed with anhydrous ethanol and recrystallized from 96% ethanol under clarifying with activated charcoal. Thus N-2-hydroxyethyl-cyclohexylamino-3,4,5-trimethoxy-benzoate-hydrochloride is obtained. Mp: 210° C.

reactant | 3,4,5-trimethoxy-benzoic acid | 10 ml | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | cyclohexyl aminoethanol-hydrochloride | Cl.C1(CCCCC1)C(C)(O)N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | N-2-hydroxyethyl-cyclohexylamino-3,4,5-trimethoxy-benzoate-hydrochloride | Cl.OCCN(C1CCCCC1)C1=C(C(=O)O)C=C(C(=C1OC)OC)OC | InChI=1S/C18H27NO6.ClH/c1-23-14-11-13(18(21)22)15(17(25-3)16(14)24-2)19(9-10-20)12-7-5-4-6-8-12;/h11-12,20H,4-10H2,1-3H3,(H,21,22);1H
